US06583135B2
Preparation of tert-Butyl 6-(2-Ethoxy-2-oxoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate
To a mixture of tert-butyl 1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (3.557 g, 12.42 mmol) and N,N-dimethylformamide (30 mL) was added 60% sodium hydride (0.596 g, 14.90 mmol). The mixture stirred for 1 h, and then cooled in a 0° C. bath. Ethyl bromoacetate was added, and the mixture warmed to room temperature. Water then was added and the mixture was evaporated in vacuo. The residue was taken up in ethyl acetate and washed with water. Evaporation and trituration with hexanes provided 3.289 g of the title compound, the structure of which is shown in FIG. 6 as (23) (where n=1).

reactant | tert-butyl 1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 12.42 mmol, 3.557 g | C1CN(CCC=2NC=3C=CC=CC3C21)C(=O)OC(C)(C)C | C17H22N2O2
reactant | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 14.90 mmol, 0.596 g | [H-].[Na+]
reactant | Ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
solvent | Water | O | H2O
product | tert-Butyl 6-(2-Ethoxy-2-oxoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 3.289 g | C(C)OC(CN1C2=C(C=3C=CC=CC13)CCN(CC2)C(=O)OC(C)(C)C)=O | C21H28N2O4
